US04423213
To a solution of sodium 7-[2-(2-aminothiazol-4-yl)-2-benzhydryloxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (4.1 g) in N,N-dimethylformamide (41 ml) was added iodomethyl pivalate (1.55 g) at 0° C., and the mixture was stirred for 15 minutes at same temperature. The reaction mixture was poured into water (150 ml) and extracted with ethyl acetate (200 ml). The extract was washed with a saturated aqueous sodium bicarbonate and water, followed by drying over magnesium sulfate. The solution was evaporated in vacuo to give pivaloyloxymethyl 7-[2-(2-aminothiazol-4-yl)-2-benzhydryloxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (3.75 g).

reactant | sodium 7-[2-(2-aminothiazol-4-yl)-2-benzhydryloxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 4.1 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)[O-])C1=O)=NOCC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | iodomethyl pivalate | 1.55 g | C(C(C)(C)C)(=O)OCI | C6H11IO2
reactant | water | 150 ml | O | H2O
solvent | N,N-dimethylformamide | 41 ml | CN(C=O)C | C3H7NO
product | pivaloyloxymethyl 7-[2-(2-aminothiazol-4-yl)-2-benzhydryloxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 3.75 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OCOC(C(C)(C)C)=O)C1=O)=NOCC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C35H35N5O9S2
